data/core_train_final.csv
"CCCCCCCCCCCC[S:10].COC(=O)[CH:21]=[CH2:20]>>CCCCCCCCCCCC[S:10][CH2:20][CH:21]C(=O)OC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC1=CC=C(C=C1)[CH:21]=[CH2:20].CC1=CC=C(C=C1)[CH:10]CC(CC(C)(C)C#N)C2=CC=C(C=C2)C>>CC1=CC=C(C=C1)[CH:21][CH2:20][CH:10](CC(CC(C)(C)C#N)C2=CC=C(C=C2)C)C3=CC=C(C=C3)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CS[C:10](S[Sn](CCCC)(CCCC)CCCC)[O:20][CH:21]1C(C)(CCCOCC2=CC=CC=C2)CCCC1C3CC(CCCC(CCOCOC)C)CC3>>CC4(CCCOCC5=CC=CC=C5)[CH:21]C(C6CC(CCCC(CCOCOC)C)CC6)CCC4.[O:20]=[C:10](S[Sn](CCCC)(CCCC)CCCC)SC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[H:20][O:21]C1=C(C=CC=C1)O.O[O:10]>>[H:20][O:10]O.C1=CC(=C(C=C1)[O:21])O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:5][C:4]([H:6])[CH2:3][CH:2]([CH3:1])[CH3:7].[H:13][C:12](=[O:14])[CH2:11][CH2:10][CH:9]([CH3:8])[CH3:15]>>[H:5][C:4]([H:6])([H:13])[CH2:3][CH:2]([CH3:1])[CH3:7].[CH3:8][CH:9]([CH3:15])[CH2:10][CH2:11][C:12]=[O:14] 13,12-12;4-4,13;12,13-4,13",Room Temperature,Propagation,abstraction
"CCC[C:10](C)Cl.[Cl:20][Cl:21]>>CCC[C:10](C)(Cl)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][C:2]1([C:10]2=[C:11]([CH:12]=[CH:13][CH:14]=[CH:15]2)[C:16]3=[CH:17][CH:18]=[CH:19][CH:20]=[C:21]31)[C:3]([C:4]#[CH:5])([C:6]#[CH:7])[C:8]#[CH:9].[Ar]>>[Ar].[CH3:1][C:2]1[C:10]2=[C:11]([CH:12]=[CH:13][CH:14]=[CH:15]2)[C:16]3=[CH:17][CH:18]=[CH:19][CH:20]=[C:21]13.[CH:5]#[C:4][C:3]([C:6]#[CH:7])[C:8]#[CH:9] 2,3-2; 2,3-3",Heat,Initiation,homolyze
"[CH:13]1=[CH:12][CH:11]=[C:10]([CH:15]=[CH:14]1)[C:9](=[O:16])[O:8][N:7]2[CH:6]=[CH:5][CH:4]=[CH:3][C:2]2=[S:1].[Br:17]>>[CH:13]1=[CH:12][CH:11]=[C:10]([CH:15]=[CH:14]1)[C:9](=[O:16])[O:8][N:7]2[CH:6]=[CH:5][CH:4]=[CH:3][C:2]2[S:1][Br:17] 17-17,1; 1,2-17,1; 1,2-2",Room Temperature,Propagation,addition
"CC[C:10](C(Cl)(Cl)Cl)F.[Cl:20][Cl:21]>>CC[C:10](C(Cl)(Cl)Cl)(F)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:4][C:3]([H:5])([CH2:6][CH:7]([CH3:8])[CH3:9])[C:2]([CH3:1])([CH3:10])[CH3:11].[Cl:12]>>[H:5][C:3]([CH2:6][CH:7]([CH3:8])[CH3:9])[C:2]([CH3:10])([CH3:1])[CH3:11].[H:4][Cl:12] 12-12,4;4,3-4,12;4,3-3",Room Temperature,Propagation,abstraction
"[H:20][CH:21]1CCCC1Cl.[Cl:10]>>[H:20][Cl:10].C1C[CH:21]C(C1)Cl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:6][C:5](=[O:7])[O:4][O:3][C:2](=[O:1])[CH3:8].[Ar:9]>>[CH3:8][C:2](=[O:1])[O:3].[CH3:6][C:5](=[O:7])[O:4].[Ar:9] 3,4-3; 3,4-4",Room Temperature,Initiation,homolyze
"[H:15][CH2:14][C:5]([CH2:6][C:7]([CH3:12])([CH3:13])[C:8](=[O:11])[O:9][CH3:10])[C:2](=[O:1])[O:3][CH3:4].[CH3:16][C:17](=[C:26]([O:29])[O:27][CH3:28])[CH2:18][C:19]([CH3:24])([CH3:25])[C:20](=[O:23])[O:21][CH3:22]>>[H:15][O:29][C:26](=[C:17]([CH3:16])[CH2:18][C:19]([CH3:24])([CH3:25])[C:20](=[O:23])[O:21][CH3:22])[O:27][CH3:28].[CH3:12][C:7]([CH3:13])([CH2:6][C:5](=[CH2:14])[C:2](=[O:1])[O:3][CH3:4])[C:8](=[O:11])[O:9][CH3:10] 29-29,15; 14,15-15,29; 14,15-5,14; 5-5,14",Room Temperature,Termination,abstraction
"[H:20][CH:21]1CCC=CC1.C1CC(=O)[N:10]C1=O>>[H:20][N:10]1C(=O)CCC1=O.C1CC=CC[CH:21]1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][CH2:2][O:3][C:4](=[O:12])[O:5][CH2:6][CH:7]([CH2:8][CH:9][Cl:10])[Cl:11].[CH2:13]=[CH:14][Cl:15]>>[CH3:1][CH2:2][O:3][C:4](=[O:12])[O:5][CH2:6][CH:7]([CH2:8][CH:9]([CH2:13][CH:14][Cl:15])[Cl:10])[Cl:11] 9-9,13; 13,14-9,13; 13,14-14",Room Temperature,Propagation,addition
"C2=CC=CC=C2[C:21](C3=CC=CC=C3)([Br:20])C1=CC=CC=C1.[Na:1]>>C2=CC=CC=C2[C:21](C3=CC=CC=C3)C2=CC=CC=C2.[Na:1][Br:20] 1-1,20;20,21-1,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:40][CH2:39][O:38][C:37](=[O:41])[CH:36]([CH2:35][C:34](=[C:33]=[C:32]1[CH:27]([CH2:26][C:24]2([CH:23]1[CH:5]([CH2:4][C:2]([CH2:48]2)([CH3:1])[CH3:3])[S:6][C:7]([O:8][CH2:9][CH3:10])[S:11][CH:12]([C:13](=[O:17])[O:14][CH2:15][CH3:16])[C:18](=[O:22])[O:19][CH2:20][CH3:21])[CH3:25])[O:28][C:29](=[O:31])[CH3:30])[CH3:47])[C:42](=[O:46])[O:43][CH2:44][CH3:45]>>[CH3:16][CH2:15][O:14][C:13](=[O:17])[CH:12][C:18](=[O:22])[O:19][CH2:20][CH3:21].[CH3:40][CH2:39][O:38][C:37](=[O:41])[CH:36]([CH2:35][C:34](=[C:33]=[C:32]1[CH:27]([CH2:26][C:24]2([CH:23]1[CH:5]([CH2:4][C:2]([CH2:48]2)([CH3:1])[CH3:3])[S:6][C:7](=[S:11])[O:8][CH2:9][CH3:10])[CH3:25])[O:28][C:29](=[O:31])[CH3:30])[CH3:47])[C:42](=[O:46])[O:43][CH2:44][CH3:45] 11,12-12; 11,12-11,7; 7-7,11",Room Temperature,Propagation,retroaddition
"[H:16][C:15](=[CH:14][C:13](=[CH2:18])[CH3:12])[H:17].[H:10][C:9]([H:11])[CH:8]=[C:2]([CH3:1])[CH2:3][C:4]([H:5])([H:6])[H:7]>>[H:16][C:15]([H:17])[CH:14]=[C:13]([CH3:12])[CH2:18][C:9]([H:10])([H:11])[CH:8]=[C:2]([CH3:1])[CH2:3][C:4]([H:5])([H:6])[H:7] 9-9,18; 13,18-9,18; 13,18-13,14; 14,15-13,14; 14,15-15",Room Temperature,Propagation,addition
